data/rdb19/train.csv
rxn,smiles,ea
173,[C:12](=[C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][C:17]1([H:25])[C:16]([H:24])[C:15]([H:23])=[C:14]([C:13](=[C:12]([H:20])[H:21])[H:22])[C:19]([H:27])=[C:18]1[H:26],42.95429579570191
1988,[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:13]([C:12]([C:11]([H:16])([H:17])[H:18])([H:19])[H:20])([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([H:6])[H:7]>>[N:1]([C:2]([O:3][H:19])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:13]([C:12]([C:11]([H:16])([H:17])[H:18])[H:20])([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([H:6])[H:7],13.661415672744624
3856,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[C:4][H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28],34.87540360772982
1775,[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:25])[H:26])[C:21]([H:27])([H:28])[H:29])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([O:16][C:17](=[O:18])[C:19](=[C:20][H:25])[C:21]([H:27])([H:28])[H:29])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:26])([H:11])[H:12])([H:8])([H:9])[H:10],30.09346858743811
3241,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[H:25])([O:26][C:27](=[O:28])[C:29]([H:34])([H:35])[H:36])[H:33])([H:30])([H:31])[H:32]>>[C:1]([C:2]([H:10])([H:11])[C:23]([C:22]([C:21]([H:30])([H:31])[H:32])([O:26][C:27](=[O:28])[C:29]([H:34])([H:35])[H:36])[H:33])([H:24])[H:25])([H:7])([H:8])[H:9].[C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20],57.57875829591649
5346,[C:17]([C:18]([C:19]([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36])[H:30])([H:27])([H:28])[H:29].[C:1](=[C:2]([C:3]1([H:31])[C:4]([H:12])[C:5]([H:13])=[C:6]([H:14])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],44.86415881250287
4853,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:15]([C:16]([C:17]([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[C:18]([H:28])([H:29])[H:30])[H:11])([H:8])([H:9])[H:10],53.40426906157518
2546,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][O:23][C:22]([O:21][C:20]([H:27])([H:28])[H:29])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34],30.59116833412554
1192,[C:14]([C:15](=[C:16]([H:23])[H:24])[C:17](=[O:18])[O:19][H:25])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[O:7][H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:15]([C:14]([H:20])([H:21])[H:22])([C:16]([H:23])[H:24])[C:17](=[O:18])[O:19][H:25],36.1685226939735
4532,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[N:18]([C:19](=[O:20])[H:26])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:10])[H:11])([C:4](=[O:5])[O:6][H:12])[H:24])([H:7])([H:8])[H:9],35.492428538098466
4865,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[C:20]([N:19]([C:17]([C:16]([C:15]([H:22])([H:23])[H:24])([H:25])[H:26])([C:18]([H:28])([H:29])[H:30])[H:27])[H:31])([O:21])[H:32])[H:11])([H:8])([H:9])[H:10],25.31353968527401
